US07989444B2
10-bromo-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 10-bromo-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (58 mg) and 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline and was obtained as a colourless slightly hygroscopic solid (20 mg).

reactant | 10-bromo-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 58 mg | BrC1=C2C(=CC=3CCNCCC31)N=C(O2)C(F)(F)F | C12H10BrF3N2O
reactant | 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | 10-bromo-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.BrC1=C2C(=CC=3CCN(CCC31)CCCSC3=NN=C(N3C)C3=C1C=CC(=NC1=CC=C3)C)N=C(O2)C(F)(F)F | InChI=1S/C28H26BrF3N6OS.ClH/c1-16-7-8-19-20(5-3-6-21(19)33-16)25-35-36-27(37(25)2)40-14-4-11-38-12-9-17-15-22-24(23(29)18(17)10-13-38)39-26(34-22)28(30,31)32;/h3,5-8,15H,4,9-14H2,1-2H3;1H
